US05238837
A mixture of N-(21-carboxyheneicosyl)maleamic acid (450 mg, 0.99 mmoles), 2.8 ml of acetic anhydride, and anhydrous sodium acetate (40.7 mg, 0.50 mmoles) was reacted at 100° C. for 1 hour. After the completion of reaction, the reaction mixture was treated in the same manner as in Example 1, to give 22-maleimidodocosanoic acid having the following properties.

reactant | N-(21-carboxyheneicosyl)maleamic acid | 0.99 mmoles, 450 mg | C(=O)(O)CCCCCCCCCCCCCCCCCCCCCNC(\C=C/C(=O)O)=O | C26H47NO5
reactant | acetic anhydride | 2.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.50 mmoles, 40.7 mg | C(C)(=O)[O-].[Na+]
product | 22-maleimidodocosanoic acid | C1(C=CC(N1CCCCCCCCCCCCCCCCCCCCCC(=O)O)=O)=O | C26H45NO4
